US07091199B1
Preparation of indan-1-yl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl)-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy]phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 1-aminoindan and acetonitrile essentially as described above in example 35. Purity by LC/MS (APCI)=99%, [M+H]+=377.

reactant | 3-[3-(2-bromo-ethoxy]phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-aminoindan | NC1CCC2=CC=CC=C12 | C9H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | indan-1-yl-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl)-amine | C1(CCC2=CC=CC=C12)NCCOC1=CC(=CC=C1)C1=NOC2=C1SC=C2 | C22H20N2O2S
